### ISSUE TITLE
[Layer 3] Implement universal statement dispatcher (all_stmts_equiv)

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#37]
## Overview

Implement the universal statement dispatcher that enables completing Layer 3 to 100%.

**Status**: Foundation complete, clear implementation path documented
**Effort**: 2-4 hours
**Difficulty**: Medium (pattern matching + mutual recursion)
**Impact**: Unblocks finishing conditional_equiv and completes Layer 3

## Background

All 7 individual statement equivalence theorems are proven:
- ✅ assign_equiv
- ✅ storageLoad_equiv  
- ✅ storageStore_equiv
- ✅ mappingLoad_equiv
- ✅ mappingStore_equiv
- ✅ return_equiv
- ✅ revert_equiv

The composition theorem exists and is fully proven (Equivalence.lean:403).

What's missing: A universal proof that ALL statements (any type) are equivalent.

## What to Implement

```lean
theorem all_stmts_equiv : ∀ selector fuel stmt irState yulState,
    execIRStmt_equiv_execYulStmt_goal selector fuel stmt irState yulState := by
  intros selector fuel stmt irState yulState halign
  cases stmt with
  | comment _ => 
      -- Trivial: both no-op
      unfold execResultsAligned statesAligned at *
      rfl
  | let_ name value => 
      exact assign_equiv selector fuel name value irState yulState halign
  | assign name value => 
      exact assign_equiv selector fuel name value irState yulState halign
  | expr e =>
      cases e with
      | call "sload" [slotExpr] => 
          exact storageLoad_equiv selector fuel ... halign
      | call "sstore" [slotExpr, valExpr] => 
          exact storageStore_equiv selector fuel ... halign
      | call "return" [offsetExpr, sizeExpr] => 
          exact return_equiv selector fuel offsetExpr sizeExpr irState yulState halign
      | call "revert" [offsetExpr, sizeExpr] => 
          exact revert_equiv selector fuel offsetExpr sizeExpr irState yulState halign
      | call "mappingSlot" args =>
          -- Handle mapping operations
          sorry
      | _ => 
          -- Other expressions are no-ops
          sorry
  | if_ cond body => 
      -- Circular dependency\! Needs mutual/well-founded recursion
      exact conditional_equiv selector fuel cond body irState yulState halign
  | switch expr cases default => 
      -- Similar to conditional
      sorry
  | block stmts => 
      -- Recursive: apply composition theorem
      sorry
  | funcDef _ _ _ _ => 
      -- No-op
      unfold execResultsAligned statesAligned at *
      rfl
```

## Circular Dependency Resolution

The circular dependency (conditional needs dispatcher, dispatcher needs conditional) can be resolved by:

**Option 1: Mutual Recursion**
```lean
mutual
  theorem all_stmts_equiv : ...
  theorem conditional_equiv : ...
end
```

**Option 2: Well-Founded Recursion**
Define on statement structure size (statements with smaller bodies come first).

## Implementation Strategy

1. **Start with non-recursive cases** (assign, storage ops, return, revert)
   - These directly call the proven theorems
   - Should work immediately

2. **Add trivial cases** (comment, funcDef)
   - Both are no-ops, prove with rfl

3. **Handle circular dependency**
   - Use mutual recursion with conditional_equiv
   - OR use well-founded recursion on statement size

4. **Test the theorem**
   - Apply to simple statement lists
   - Verify composition theorem works with it

## Files to Modify

- **Primary**: `Compiler/Proofs/YulGeneration/StatementEquivalence.lean`
  - Replace `axiom all_stmts_equiv` with actual implementation
  - May need to make conditional_equiv mutual

- **Reference**: `Compiler/Proofs/YulGeneration/Equivalence.lean`
  - See composition theorem at line 403 for how it's used

## Acceptance Criteria

- [ ] Replace `axiom all_stmts_equiv` with proven theorem
- [ ] All pattern match cases covered
- [ ] Circular dependency resolved (mutual or WF recursion)
- [ ] Project builds successfully (`lake build`)
- [ ] No new sorries introduced
- [ ] Can be used by composition theorem

## Once Complete

This theorem enables:
1. Finishing conditional_equiv (remove last sorry)
2. Using composition theorem for statement lists
3. **Completing Layer 3 to 100%\!**

## References

- **Roadmap**: `docs/ROADMAP.md` - Layer 3 section  
- **Implementation guide**: `Compiler/Proofs/YulGeneration/StatementEquivalence.lean:415+`
- **Existing proofs**: Lines 70-402 in StatementEquivalence.lean
- **Composition theorem**: `Equivalence.lean:403-491`

## Questions?

See PR #27 for full context and discussion. The structure is fully documented - this is "just" implementation\!
